US08304419B2
Step E: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-({3-[(1,1-dimethylethyl)oxy]propanoyl}amino)-1H-indole-2-carboxamide
HATU (0.090 g, 0.237 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.0491 g, 0.158 mmol), 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-({3-[(1,1-dimethylethyl)oxy]propanoyl}amino)-1H-indole-2-carboxylic acid (0.048 g, 0.158 mmol) and diisopropylethylamine (0.041 mL, 0.237 mmol) in DMF (1 mL). The mixture was stirred at room temperature overnight. The reaction mixture was extracted with ethyl acetate and water. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography (hexane:ethyl acetate) to give the title compound (0.055 g, 58%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.47 (s, 1H), 9.81 (s, 1H), 8.89 (t, 1H), 7.94 (s, 1H), 7.78 (s, 1H), 7.39-7.53 (m, 4H), 7.36 (t, 1H), 7.03-7.12 (m, 2H), 4.52 (d, 2H), 3.57 (t, 2H), 2.36-2.49 (m, 2H), 1.10 (s, 9H). ES MS: m/z 597 (M+1).

reactant | HATU | 0.237 mmol, 0.090 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.158 mmol, 0.0491 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-({3-[(1,1-dimethylethyl)oxy]propanoyl}amino)-1H-indole-2-carboxylic acid | 0.158 mmol, 0.048 g | CC(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)NC(CCOC(C)(C)C)=O)C(=O)O | C21H28N2O6
reactant | diisopropylethylamine | 0.237 mmol, 0.041 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-({3-[(1,1-dimethylethyl)oxy]propanoyl}amino)-1H-indole-2-carboxamide | 0.055 g, 58% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC(=CC=C2C1)NC(CCOC(C)(C)C)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C30H27Cl2FN4O4
